US06498251B1
Synthesis Example 7c 1-Methyl-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one
Ethanol and Raney nickel slurry (Aldrich) were added to 1-methyl-1H-benz[cd]indol-2-one (4.5 g, 25 mmol), and catalytic reduction was carried out under ordinary pressure. The reaction was completed when 1.15 L of hydrogen absorption was observed, and then Raney nickel was removed by filtration, the filtrate was concentrated and the resulting material was separated and purified by a silica gel column chromatography to obtain 3.8 g (20 mmol, 80% in yield) of the title compound.

reactant | 1-methyl-1H-benz[cd]indol-2-one | 25 mmol, 4.5 g | CN1C(C2=C3C(C=CC=C13)=CC=C2)=O | C12H9NO
catalyst | Raney nickel | [Ni] | Ni
solvent | Ethanol | C(C)O | C2H6O
product | 1-Methyl-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one | CN1C(C2C=3C(=CC=CC13)CCC2)=O | C12H13NO
